US04435327
One gram of 3β,7β,15α-trihydroxy-5-androsten-17-one is dissolved at room temperature in 20 ml of pyridine; 2 ml of pivalic acid chloride as well as 100 mg of 4-dimethylaminopyridine are added to the reaction mixture, and the latter is agitated at room temperature for 48 hours. The reaction mixture is then poured into 250 ml of ice water, stirred for 2 hours at room temperature, the resultant precipitate is vacuum-filtered, washed with water, and dried for 8 hours in a vacuum drying cabinet at 50° C., yielding 1.38 g of 7β-hydroxy-3β,15α-dipivaloyloxy-5-androsten-17-one, mp 195°-197° C.

reactant | 3β,7β,15α-trihydroxy-5-androsten-17-one | One gram | O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H](CC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O)O | C19H28O4
reactant | pivalic acid chloride | 2 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 7β-hydroxy-3β,15α-dipivaloyloxy-5-androsten-17-one | 1.38 g | O[C@@H]1[C@H]2[C@@H]3[C@H](CC([C@@]3(C)CC[C@@H]2[C@]2(CC[C@@H](CC2=C1)OC(C(C)(C)C)=O)C)=O)OC(C(C)(C)C)=O | C29H44O6
